US07112593B2
a) 1-(3-Bromophenyl)-2,5-dihydropyrrole
Then, a mixture of 15 g of the cis-1,4-bis(methanesulfonyloxy)-2-butene, 10 g of 3-bromoaniline, 24 g of anhydrous potassium carbonate and 70 ml of N,N-dimethylformamide was stirred at room temperature overnight. The reaction mixture was extracted with ethyl acetate-water, and the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and then evaporated. The residue was purified by silica gel column chromatography with 5% ethyl acetate/hexane, to give 6.6 g of the title compound.

reactant | cis-1,4-bis(methanesulfonyloxy)-2-butene | 15 g | CS(=O)(=O)OC\C=C/COS(=O)(=O)C | C6H12O6S2
reactant | 3-bromoaniline | 10 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-(3-Bromophenyl)-2,5-dihydropyrrole | 6.6 g | BrC=1C=C(C=CC1)N1CC=CC1 | C10H10BrN
